US08535974B2
Synthesis of 3,3′-((9,9-dioctyl-9H-fluorene-2,7-diyl)bis(m-tolylazanediyl))dibenzaldehyde
To a three-neck round-bottom flask, were added 34.0 g N2,N7-bis(3-(1,3-dioxolan-2-yl)phenyl)-9,9-dioctyl-N2,N7-di-m-tolyl-9H-fluorene-2,7-diamine and in 1000 mL acetone. 189.5 mL 2 M hydrochloric acid solution was added slowly to the reaction mixture through an addition funnel. The reaction was monitored by TLC. After the reaction was done showed by TLC, the solvent was removed by evaporation. 1000 mL Ethyl acetate was added, and the reaction mixture was extracted using DI water (3×750 mL). The combined organic layer was dried over magnesium sulfate. After filtration, the solvent was removed by evaporation. The product (27.8 g) was obtained, and was carried on to next reaction without further purification. The structure was confirmed by NMR.

reactant | N2,N7-bis(3-(1,3-dioxolan-2-yl)phenyl)-9,9-dioctyl-N2,N7-di-m-tolyl-9H-fluorene-2,7-diamine | 34.0 g | O1C(OCC1)C=1C=C(C=CC1)N(C1=CC=2C(C3=CC(=CC=C3C2C=C1)N(C=1C=C(C=CC1)C)C1=CC(=CC=C1)C1OCCO1)(CCCCCCCC)CCCCCCCC)C=1C=C(C=CC1)C | C61H72N2O4
reactant | hydrochloric acid | 2 M, 189.5 mL | Cl | ClH
solvent | acetone | 1000 mL | CC(=O)C | C3H6O
product | 3,3′-((9,9-dioctyl-9H-fluorene-2,7-diyl)bis(m-tolylazanediyl))dibenzaldehyde | 27.8 g | C(CCCCCCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)N(C=1C=C(C=CC1)C)C=1C=C(C=O)C=CC1)N(C=1C=C(C=CC1)C)C=1C=C(C=O)C=CC1)CCCCCCCC | C57H64N2O2
